US05409943
(a) N-(3-(2,6-Dichlorobenzyloxy)-pyrid-2-yl)-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2,6-dichlorobenzyloxy)pyridine (5 g, 0.018 mol), 4-chlorophenyl isothiocyanate (3.76 g, 0.022 mol) and toluene (20 ml) was heated under reflux for 3 hours, then cooled and diluted with ether to induce crystallisation of the product, which was recrystallised from ethanol/ether. Yield 6.69 g (82%), m.p. 179°-180 ° C.

reactant | 2-amino-3-(2,6-dichlorobenzyloxy)pyridine | 0.018 mol, 5 g | NC1=NC=CC=C1OCC1=C(C=CC=C1Cl)Cl | C12H10Cl2N2O
reactant | 4-chlorophenyl isothiocyanate | 0.022 mol, 3.76 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-(3-(2,6-Dichlorobenzyloxy)-pyrid-2-yl)-N'-(4-chlorophenyl)thiourea | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H14Cl3N3OS
